US08865712B2
b) 6-Chloro-1-(2,2-difluoro-ethyl)-1H-pyrrolo[3,2-b]pyridine-5-carboxylic acid
To a solution of 6-chloro-1-(2,2-difluoro-ethyl)-1H-pyrrolo[3,2-b]pyridine-5-carboxylic acid ethyl ester (150 mg, 0.520 mmol) in THF (10 ml) was added 1N aq. sodium hydroxide (0.624 ml, 0.624 mmol) and mixture was stirred at 65° C. for 4.5 h. The solvents were evaporated, the residue was dissolved in water, acidified with 2N aq. HCl and the mixture extracted with EtOAc. The combined organic layers were dried with Na2SO4 and evaporated to provide the title compound as light orange solid.

reactant | 6-chloro-1-(2,2-difluoro-ethyl)-1H-pyrrolo[3,2-b]pyridine-5-carboxylic acid ethyl ester | 0.520 mmol, 150 mg | C(C)OC(=O)C1=C(C=C2C(=N1)C=CN2CC(F)F)Cl | C12H11ClF2N2O2
reactant | sodium hydroxide | 0.624 mmol, 1N, 0.624 ml | [OH-].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 6-Chloro-1-(2,2-difluoro-ethyl)-1H-pyrrolo[3,2-b]pyridine-5-carboxylic acid | ClC=1C=C2C(=NC1C(=O)O)C=CN2CC(F)F | C10H7ClF2N2O2
